US06063932
N-[2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethyl]-2,6-difluorobenzamide
A portion of 0.37 g (3.1 mmol) of thionyl chloride was added to 1.20 g (2.75 mmol) of N-[1-[4'-[(difluoromethyl)thio][1,1-biphenyl]4-yl]-2-hydroxyethyl]-2,6-difluorobenzamide and 10 mL of toluene. The mixture was warmed to 45° C. for 3.25 h. An additional portion of 0.25 g (2.1 mmol) of thionyl chloride was added and the mixture was stirred for an additional 1 h. The mixture was cooled to 25° C. and the solvent removed under reduced pressure gave the product 1.18 g (96% yield) as an off-white solid. Chromatography on silica gel (eluted with ethyl acetate/hexanes, 1:2) afforded an analytical sample; m.p. 146-147° C. IR (Nujol): 3290, 1652, 1625, 1539, 1311, 1234, 1065, 1009, 818 cm31 1. 1H-NMR(CDCl3): δ3.96-4.08 (m, 2H), 5.62-5.68 (m, 1H), 6.65 (d, J=7.3 Hz, 1H), 6.86 (t, J=57 Hz, 1H), 6.95-7.02 (m, 2H), 7.30-7.48 (m, 3H), 7.50-7.67 (m, 6H).

reactant | thionyl chloride | 3.1 mmol, 0.37 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-[1-[4'-[(difluoromethyl)thio][1,1-biphenyl]4-yl]-2-hydroxyethyl]-2,6-difluorobenzamide | 2.75 mmol, 1.20 g | FC(SC1=CC=C(C=C1)C1=CC=C(C=C1)C(CO)NC(C1=C(C=CC=C1F)F)=O)F | C22H17F4NO2S
reactant | thionyl chloride | 2.1 mmol, 0.25 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethyl]-2,6-difluorobenzamide | 1.18 g, 96% yield | ClCC(C1=CC=C(C=C1)C1=CC=C(C=C1)SC(F)F)NC(C1=C(C=CC=C1F)F)=O | C22H16ClF4NOS
